US03957922
Pentaerythritol - Triphenylphosphite - Pentachlorophenol - Ethylene Oxide
A 1-gallon autoclave was charged with 478 grams of pentaerythritol and 1357 grams of pentachlorophenol containing about 750 ppm of aluminum and iron compounds and 442 grams of triphenylphosphite. After heating to 135°C. 870 grams of ethylene oxide was added at temperatures of up to 150°C. The mixture was reacted for about an hour and then, after cooling to 50°C., 30 grams of triethylamine was added followed by the addition of 345 grams more of ethylene oxide at up to 125°C. After reacting for approximately 2 hours, the mixture was cooled and discharged. The mixture was stripped for 2 hours at 79° - 81°C./1-2 mm. Hg. A sample of the oxyethylated product had the following analyses.

reactant | pentaerythritol | 478 grams | OCC(CO)(CO)CO | C5H12O4
reactant | pentachlorophenol | 1357 grams | ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl | C6HCl5O
reactant | aluminum | [Al] | Al
reactant | triphenylphosphite | 442 grams | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | ethylene oxide | 870 grams | C1CO1 | C2H4O
catalyst | iron | [Fe] | Fe
solvent | triethylamine | 30 grams | C(C)N(CC)CC | C6H15N
product | Pentaerythritol - Triphenylphosphite Pentachlorophenol Ethylene Oxide | OCC(CO)(CO)CO.C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1.ClC1=C(C(=C(C(=C1O)Cl)Cl)Cl)Cl.C1CO1 | InChI=1S/C18H15O3P.C6HCl5O.C5H12O4.C2H4O/c1-4-10-16(11-5-1)19-22(20-17-12-6-2-7-13-17)21-18-14-8-3-9-15-18;7-1-2(8)4(10)6(12)5(11)3(1)9;6-1-5(2-7,3-8)4-9;1-2-3-1/h1-15H;12H;6-9H,1-4H2;1-2H2
